US08067448B2
2-Chloro-4-((1R,2S)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-(tert-butyldimethylsilyloxy)-3-chloro-phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (377 mg, 0.58 mmol) was deprotected using tetrabutylammonium fluoride (1.0 M solution in THF, 1.2 mL, 1.2 mmol) in a manner analogous used for the preparation of Example 22. After column chromatography (80% EtOAc/hexanes) the title compound was isolated as an off-white solid (23 mg). 1H NMR (400 MHz, CDCl3, δ in ppm) 7.91 (d, J=2.2 Hz, 1H), 7.77 (dd, J=2.2, 8.4 Hz, 1H), 7.46 (d, J=8.6 Hz, 1H), 7.15 (d, J=8.4 Hz, 1H), 6.84 (d, J=8.8 Hz, 1H), 5.68 (d, J=8.4 Hz, 1H), 5.08 (dd, J=3.7, 8.4 Hz, 1H), 4.62 (m, 1H), 2.39 (s, 3H), 1.40 (d, J=6.3 Hz, 3H).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-(tert-butyldimethylsilyloxy)-3-chloro-phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 0.58 mmol, 377 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)Cl)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H44Cl2N4O3Si2
reactant | tetrabutylammonium fluoride | 1.2 mmol, 1.0 M, 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Chloro-4-((1R,2S)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)O)Cl | C19H16Cl2N4O3
